US09061013B2
1-{2-chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid dimethylamide
To a stirred solution of 1-{2-Chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid (Preparation 14, 0.1 g, 0.189 mmol) in dry DMF (1 mL) was added HATU (0.108 g, 0.284 mmol) HOBt (0.028 g, 0.207 mmol), DIPEA (0.048 g, 0.378 mmol) and saturated solution of dimethyl amine in THF (2 mL) at 0° C. and stirred at 0° C. for 2 hours and at room temperature for 18 hours. After complete consumption of starting material, reaction mixture was quenched with water (15 mL), extracted with EtOAc (10 mL). Organic layer was washed with saturated solution of lithium chloride (2×20 mL), water (2×20 mL), dried over sodium sulphate and evaporated in vacuo to get crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Further purification by preparative TLC using 5% MeOH in DCM afforded white solid (0.020 g, 19%). 1H-NMR (400 MHz, CDCl3) δ: 2.95 (s, 3H), 2.97 (s, 3H), 3.59 (d, 1H, J=17.08 Hz), 3.67-3.71 (m, 1H), 4.00 (d, 1H, J=17.04 Hz), 4.29-4.38 (m, 4H), 6.48 (d, 1H, J=8.6 Hz), 7.40 (dd, 1H, J1=8.48 Hz, J2=2 Hz), 7.45 (d, 1H, J=1.92 Hz), 7.62 (s, 2H); LC-MS (m/z): [M+H] 554.10.

reactant | 1-{2-Chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid | 0.189 mmol, 0.1 g | ClC1=C(C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)N1CC(C1)C(=O)O | C20H13Cl4F3N2O3
reactant | HATU | 0.284 mmol, 0.108 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.378 mmol, 0.048 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethyl amine | CNC | C2H7N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-{2-chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid dimethylamide | CN(C(=O)C1CN(C1)C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)Cl)C | C22H18Cl4F3N3O2
